US06015814
Using an analogous procedure to that described in Example 1, 4-(3',4'-difluoroanilino)-6-(2-morpholinoacetamido)quinazoline was reduced with lithium aluminium hydride to give 4-(3',4'-difluoroanilino)-6-(2-morpholinoethylamino)quinazoline in 58% yield;

reactant | 4-(3',4'-difluoroanilino)-6-(2-morpholinoacetamido)quinazoline | FC=1C=C(NC2=NC=NC3=CC=C(C=C23)NC(CN2CCOCC2)=O)C=CC1F | C20H19F2N5O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(3',4'-difluoroanilino)-6-(2-morpholinoethylamino)quinazoline | 58% yield | FC=1C=C(NC2=NC=NC3=CC=C(C=C23)NCCN2CCOCC2)C=CC1F | C20H21F2N5O
